US07670797B2
Four standards were used: 7-ethoxycoumarin, which was prepared as 1 mg/ml solution in methanol, and 10 μg/ml solutions prepared from the 1 mg/ml solutions in distilled water; the Phase I metabolite of ECOD, 7-hydroxycoumarin (7-HC), which was prepared as a 1 mg/ml solution in 50:50 methanol:water, and 10 μg/ml solutions diluted in distilled water; the Phase II metabolite, 7-HC-glucuronide, which was prepared as a 1 mg/ml solution in 50:50 methanol:water, and subsequently diluted in distilled water to yield a 10 μg/ml solution; and 7-HC-sulphate, prepared as a 1 mg/ml solution in 50:50 methanol:water, and subsequently diluted in distilled water to yield a 10 μg/ml solution. ECOD elutes between 12.919 to 14.647 minutes from the column, while 7-HC elutes at 3.709 to 4.668 minutes. The subsequent breakdown product, 7HC-glucuronide, is retained at 2.265 to 3.947 minutes, and 7HC-sulphate is retained from 10.230 to 12.878 minutes.

reactant | 7-hydroxycoumarin | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 7-HC sulphate | OC1=CC=C2C=CC(OC2=C1)=O.S(=O)(=O)([O-])[O-]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 7-ethoxycoumarin | C(C)OC1=CC=C2C=CC(OC2=C1)=O | C11H10O3
